US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (150 mg, 0.396 mmol) and N-(2-hydroxyethyl)piperazine (57 mg, 0.436 mmol) gave 7-cyclopentyl-2-{5-[4-(2-hydroxy-ethyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as an off white solid (78 mg, 40%) [following SiO2 chromatography, eluting with 0-10% (2M NH3 in MeOH)/DCM]. MS (ESI) m/z 493.3 (M+H)+ (method A).

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.396 mmol, 150 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | N-(2-hydroxyethyl)piperazine | 0.436 mmol, 57 mg | OCCN1CCNCC1 | C6H14N2O
product | 7-cyclopentyl-2-{5-[4-(2-hydroxy-ethyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCN(CC2)CCO)N1C1CCCC1)C | C26H36N8O2
